US04451471
5 g of 4,5-bis-phenylthiazoline-2-thione are dissolved in 50 ml of hexamethylphosphoric acid triamide, the solution is cooled to 5° and, while stirring, sodium hydride (0.89 g of a 50% strength suspension in mineral oil, de-oiled with hexane) is added. The mixture is stirred for 30 minutes at room temperature, then 3.18 g of ethyl iodide are slowly added dropwise and the mixture is then stirred for 30 minutes at room temperature, poured onto 1000 ml of ice-water and extracted by shaking twice with diethyl ether. The ether phases are combined, washed with water, dried over magnesium sulphate and concentrated to dryness by evaporation. The remaining pale yellow oil is dissolved in 200 ml of toluene/hexane (1:1) and filtered through 10 g of silica gel. Concentration of the eluate by evaporation yields 2-ethylthio-4,5-bis-phenylthiazole in the form of an oil.

reactant | 4,5-bis-phenylthiazoline-2-thione | 5 g | C1(=CC=CC=C1)C1=NC(SC1C1=CC=CC=C1)=S | C15H11NS2
reactant | sodium hydride | [H-].[Na+]
reactant | hexane | CCCCCC | C6H14
reactant | ethyl iodide | 3.18 g | C(C)I | C2H5I
solvent | hexamethylphosphoric acid triamide | 50 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 2-ethylthio-4,5-bis-phenylthiazole | C(C)SC=1SC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C17H15NS2
